US07141575B2
(2-Amino-6-(2-furyl)-5-nitropyrimidin-4-yl) 4-methylbenzenesulphonate
A suspension of 2-amino-6-(2-furyl)-5-nitropyrimidine-4(1H)-one (1.00 g, 4.50 mmol) in dichloromethane (50 mL) was treated with triethylamine (0.941 mL, 6.75 mmol) and p-toluenesulfonyl chloride (944 mg, 4.95 mmol), stirred for 1 h, diluted with dichloromethane (50 mL), washed with 2-M HCl (20 mL), dried (MgSO4), concentrated in vacuo and purified by chromatography [SiO2; isohexane:EtOAc (2:1)] to give the title compound (410 mg, 24%) as a yellow solid; NMR δH (400 MHz, CDCl3) 7.95 (2H, d, J 8.5 Hz), 7.59–7.57 (1H, m), 7.39 (2H, d, J 8.5 Hz), 7.23–7.21 (1H, m), 6.59–6.51 (1H, m), 5.39 (2H, br s), 2.48 (3H, s); Retention time 5.68 min.

reactant | 2-amino-6-(2-furyl)-5-nitropyrimidine-4(1H)-one | 4.50 mmol, 1.00 g | NC=1NC(=C(C(N1)=O)[N+](=O)[O-])C=1OC=CC1 | C8H6N4O4
reactant | triethylamine | 6.75 mmol, 0.941 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl chloride | 4.95 mmol, 944 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | (2-Amino-6-(2-furyl)-5-nitropyrimidin-4-yl) 4-methylbenzenesulphonate | 410 mg, 24% | CC1=CC=C(C=C1)S(=O)(=O)OC1=NC(=NC(=C1[N+](=O)[O-])C=1OC=CC1)N | C15H12N4O6S
